US08912331B2
Step 5: Quinolin-6-ylmethanamine
To a solution of quinoline-6-carbonitrile (96 g, 0.62 mol) in saturated ammonia in methanol (1 lit.), Raney-Ni (10 g) was added and the mixture was stirred at 1 atm of H2 at RT for 16 h. The reaction mixture was filtered and the filtrate was concentrated under vacuum to afford the title compound as a brown oil (80 g, 82%). 1H-NMR (δ ppm. DMSO-d6, 400 MHz): δ8.83 (dd, J=4.2, 1.7 Hz, 1H), 8.29 (d, J=8.2, 4.2 Hz, 1H), 3.90 (s, 2H).

reactant | quinoline-6-carbonitrile | 0.62 mol, 96 g | N1=CC=CC2=CC(=CC=C12)C#N | C10H6N2
solvent | ammonia | N | H3N
solvent | methanol | 1 lit. | CO | CH4O
catalyst | Ni | 10 g | [Ni] | Ni
product | Quinolin-6-ylmethanamine | 80 g, 82% | N1=CC=CC2=CC(=CC=C12)CN | C10H10N2
